US08440666B2
1-(1-{[2-(Trimethylsilyl)ethoxy]methyl}-1H-pyrazol-4-yl)ethanol
1-(1-{[2-(Trimethylsilyl)ethoxy]methyl}-1H-pyrazol-4-yl)ethanone (39.7 mg, 0.17 mmol) in methanol (2 mL) was mixed with sodium borohydride (12.5 mg, 0.34 mmol) and stirred at room temperature for 90 minutes. After completion of the reaction, the reaction solution was mixed with ethyl acetate and washed with saturated aqueous sodium chloride. The organic layer was dried over anhydrous sodium sulfate and evaporated under reduced pressure. The resulting crude reaction product containing the desired product was used for the next step (43.7 mg).

reactant | 1-(1-{[2-(Trimethylsilyl)ethoxy]methyl}-1H-pyrazol-4-yl)ethanone | 0.17 mmol, 39.7 mg | C[Si](CCOCN1N=CC(=C1)C(C)=O)(C)C | C11H20N2O2Si
reactant | sodium borohydride | 0.34 mmol, 12.5 mg | [BH4-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 2 mL | CO | CH4O
product | 1-(1-{[2-(Trimethylsilyl)ethoxy]methyl}-1H-pyrazol-4-yl)ethanol | C[Si](CCOCN1N=CC(=C1)C(C)O)(C)C | C11H22N2O2Si
